US08080541B2
Step 4. Preparation of 2-benzyloxy-6-methoxy-4-trifluoromethyl-benzoic acid methyl ester
To a solution of 380 mg (1.165 mmol) 2-benzyloxy-6-methoxy-4-trifluoromethyl-benzoic acid in 3.8 ml N,N-dimethylformamide under nitrogen at room temperature, was added 177.1 mg (1.281 mmol) potassium carbonate and 87.2 ul (1.398 mmol) methyliodide. The mixture was stirred under nitrogen for 3 days. The mixture was poured into water. The aqueous layer was extracted once with ethyl acetate. The organic layer was washed once with water, dried over sodium sulfate, filtered and concentrated in vacuo. The crude light yellow oil (410 mg) was purified with flash column chromatography on silica (10 g) eluting with a gradient formed from n-heptane and ethyl acetate (0%=>10% in 15 minutes) to provide 352 mg (y: 88.8%) of the title compound as a colorless oil, which crystallized on standing. MS (m/e): 341.2 (MH+).

reactant | 2-benzyloxy-6-methoxy-4-trifluoromethyl-benzoic acid | 1.165 mmol, 380 mg | C(C1=CC=CC=C1)OC1=C(C(=O)O)C(=CC(=C1)C(F)(F)F)OC | C16H13F3O4
reactant | potassium carbonate | 1.281 mmol, 177.1 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyliodide | 1.398 mmol, 87.2 ul | CI | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3.8 ml | CN(C=O)C | C3H7NO
product | 2-benzyloxy-6-methoxy-4-trifluoromethyl-benzoic acid methyl ester | COC(C1=C(C=C(C=C1OC)C(F)(F)F)OCC1=CC=CC=C1)=O | C17H15F3O4
